US07531532B2
4-(2-Fluoro-4-{3-[2-(4-fluorophenyl)acetyl]ureido}phenoxy)-2-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyridine
To a solution of 4-(4-amino-2-fluorophenoxy)-2-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyridine (81.2 mg) in tetrahydrofuran (2.0 ml) was added a solution of 2-(4-fluorophenyl)acetyl isocyanate in tetrahydrofuran (0.25 M, 1.9 ml) at room temperature, followed by stirring for 3 days. The reaction mixture was concentrated under reduced pressure. The resultant residue was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate:methanol=97:3 to 95:5) to provide the titled compound (9.7 mg, 8.5%) as white powder.

reactant | 4-(4-amino-2-fluorophenoxy)-2-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyridine | 81.2 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C2CCN(CC2)C)C=C1)F | C22H29FN6O2
reactant | 2-(4-fluorophenyl)acetyl isocyanate | FC1=CC=C(C=C1)CC(=O)N=C=O | C9H6FNO2
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.25 M, 1.9 ml | O1CCCC1 | C4H8O
product | 4-(2-Fluoro-4-{3-[2-(4-fluorophenyl)acetyl]ureido}phenoxy)-2-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyridine | 9.7 mg, 8.5% | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C2CCN(CC2)C)C=CC(=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O | C31H35F2N7O4
